* File: inv.pex.netlist.pex
* Created: Thu Apr 28 18:45:47 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 1 4 12 20
c25 20 0 1.98328e-19
r26 10 15 0.0233109
r27 10 12 0.259394
r28 7 20 10
r29 4 7 0.752952
r30 4 20 10
r31 2 15 0.0282185
r32 2 4 0.740424
r33 1 15 15
.ends

.subckt PM_INV%OUT 3 11 26 29 32 34 36 37
r37 32 34 1.7
r38 28 32 0.102894
r39 28 29 0.0611101
r40 26 32 0.101697
r41 26 27 0.0611101
r42 23 36 15
r43 20 23 0.502386
r44 20 36 10
r45 17 20 0.752952
r46 17 36 10
r47 14 17 0.752952
r48 14 36 10
r49 11 14 0.752952
r50 11 29 0.444756
r51 11 36 10
r52 7 27 0.556258
r53 7 37 10
r54 3 7 0.752952
r55 3 37 10
.ends

.subckt PM_INV%VDD! 1 4 19 21 27
r26 19 23 0.0232824
r27 19 21 0.0499808
r28 17 27 15
r29 14 17 0.502386
r30 14 27 10
r31 11 14 0.752952
r32 11 27 10
r33 8 11 0.752952
r34 8 27 10
r35 4 8 0.752952
r36 4 27 10
r37 2 23 0.0305777
r38 2 17 0.801813
r39 1 23 15
.ends

.subckt PM_INV%IN 4 6 9 10 12 14 16 19
c44 16 0 1.98328e-19
r45 19 22 25
r46 16 19 1.7
r47 9 22 4.17508
r48 9 10 0.833027
r49 6 14 153.887
r50 5 10 5.18609
r51 5 6 16.0034
r52 4 10 5.18609
r53 3 12 69.9487
r54 3 4 16.0034
.ends

