* File: inv1.pex.netlist.pex
* Created: Thu Apr 28 19:53:40 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV1%GND! 1 4 18 20 26
r28 18 20 0.284167
r29 15 18 0.110509
r30 13 15 0.150585
r31 10 26 30
r32 7 10 0.389577
r33 7 26 10
r34 4 7 0.582909
r35 4 26 10
r36 2 13 0.0515295
r37 2 4 0.923338
r38 1 20 30
r39 1 15 10
.ends

.subckt PM_INV1%OUT 3 14 32 35 38 40 42 43
r29 38 40 1.7
r30 34 38 0.102894
r31 34 35 0.0611101
r32 32 38 0.101697
r33 32 33 0.0611101
r34 29 42 30
r35 26 29 0.389577
r36 26 42 10
r37 23 26 0.58388
r38 23 42 10
r39 20 23 0.582909
r40 20 42 10
r41 17 20 0.584852
r42 17 42 10
r43 14 17 0.58388
r44 14 35 0.344888
r45 14 42 10
r46 10 33 0.23705
r47 10 43 30
r48 7 10 0.389577
r49 7 43 10
r50 3 7 0.582909
r51 3 43 10
.ends

.subckt PM_INV1%VDD! 1 4 24 29 34
r28 26 29 0.332634
r29 24 26 0.0457372
r30 22 24 0.0831585
r31 20 34 30
r32 17 20 0.389577
r33 17 34 10
r34 14 17 0.58388
r35 14 34 10
r36 11 14 0.582909
r37 11 34 10
r38 8 11 0.584852
r39 8 34 10
r40 4 8 0.58388
r41 4 34 10
r42 2 22 0.053567
r43 2 20 0.868213
r44 1 29 30
r45 1 26 10
.ends

.subckt PM_INV1%CLK_BAR 2 6 11 16 17
r25 16 17 25
r26 13 16 5.42761
r27 11 17 1.7
r28 2 6 76.3077
r29 1 13 3.12463
r30 1 2 15.8974
.ends

.subckt PM_INV1%CLK 4 6 11 16 17
r24 16 17 25
r25 13 16 5.42761
r26 11 17 1.7
r27 4 13 3.12463
r28 3 6 175.508
r29 3 4 16.0034
.ends

.subckt PM_INV1%IN 4 6 9 10 12 14 16 19
r50 19 22 25
r51 16 19 1.7
r52 9 22 4.17508
r53 9 10 0.833027
r54 6 14 175.508
r55 5 10 5.18609
r56 5 6 16.0034
r57 4 10 5.18609
r58 3 12 76.3077
r59 3 4 16.0034
.ends

